US05889026
A mixture of hydroquinone monobenzylether (1.7 g, 8.5 mmol) and tetramethylammoniumchloride (0.19 g, 1.7 mmol) in (S)-epichlorohydrine (2.0 ml, 25.5 mmol) was stirred at room temperature for 4 days. H2O (30 ml) and CH2Cl2 (50 ml) were added and the organic phase was separated. The water phase was extracted two times with CH2Cl2. The organic phases were then pooled, dried with Na2SO4 and the solvent evaporated. The residue was chromatographed over silica gel (hexane-Et2O, 3:1) to give (R)-{[4-(Phenylmethoxy)phenoxy]methyl}-oxirane (1.1 g, 50%) as a colorless solid, m.p. 70°-73° C., [α]D20 =-8.1° (c=1.0, methanol) and MS: m/e=256 (M+).

reactant | hydroquinone monobenzylether | 8.5 mmol, 1.7 g | C=1(O)C(=CC(O)=CC1)C1=CC=CC=C1COCC1=CC=CC=C1C=1C(O)=CC=C(C1)O | C26H22O5
reactant | (S)-epichlorohydrine | 25.5 mmol, 2.0 ml | C(Cl)[C@@H]1CO1 | C3H5ClO
reactant | H2O | 30 ml | O | H2O
catalyst | tetramethylammoniumchloride | 1.7 mmol, 0.19 g | [Cl-].C[N+](C)(C)C
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | (R)-{[4-(Phenylmethoxy)phenoxy]methyl}-oxirane | 1.1 g, 50% | C1(=CC=CC=C1)COC1=CC=C(OC[C@@H]2OC2)C=C1 | C16H16O3
